US08614238B2
N-Methyl-N-[4-(1-methyl-1H-benzoimidazol-2-yl)-phenyl]-amine
10.14 mL (86.5 mmol) N-Methyl-o-phenylenediamine and 13.08 g (86.5 mmol) 4-(methylamino)benzoic acid are stirred in 70.0 g polyphosphoric acid at 200° C. for 3 hours. The mixture is cooled to 80° C., poured into water and stirred over night at RT. The mixture is alkalinized with sodium hydroxide solution. The precipitate is filtered off and washed with water. The product is dried in vacuo at 50° C.

reactant | N-Methyl-o-phenylenediamine | 86.5 mmol, 10.14 mL | CNC1=C(C=CC=C1)N | C7H10N2
reactant | 4-(methylamino)benzoic acid | 86.5 mmol, 13.08 g | CNC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | N-Methyl-N-[4-(1-methyl-1H-benzoimidazol-2-yl)-phenyl]-amine | CNC1=CC=C(C=C1)C1=NC2=C(N1C)C=CC=C2 | C15H15N3
